US06770638B2
Step 1: Preparation of 1-(2-Chloroethyl)-4-(3-chlorophenyl) piperazine
A mixture of (3-chloro-phenyl)-piperazine hydrochloride (51.5 mmol) and powdered sodium hydroxide (103 mmol) in DMSO (75 mL) was treated with 2-bromo-1-chloroethane (77.2 mmol) and stirred at ambient temperature for 4 h. The reaction was poured into ice cold water (200 mL) and stirred for 0.5 h. A solid mass formed and was separated by decanting the water. The aqueous layer was extracted with dichloromethane (100 mL). The solid mass was dissolved with dichloromethane (100 mL) and the combined organics were dried with sodium sulfate, filtered and the solvent removed under vacuum. Flash chromatography (chloroform:acetone 50:1 to 20:1) yielded an oil (7.95 g) as the titled compound.

reactant | (3-chloro-phenyl)-piperazine hydrochloride | 51.5 mmol | Cl.ClC=1C=C(C=CC1)N1CCNCC1
reactant | sodium hydroxide | 103 mmol | [OH-].[Na+]
reactant | 2-bromo-1-chloroethane | 77.2 mmol | BrCCCl | C2H4BrCl
solvent | DMSO | 75 mL | CS(=O)C | C2H6OS
product | 1-(2-Chloroethyl)-4-(3-chlorophenyl) piperazine | 7.95 g | ClCCN1CCN(CC1)C1=CC(=CC=C1)Cl | C12H16Cl2N2
